US05571809
To a mixture of 4.0 g of 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one and 100 ml of dry DMF was added 1.2 g of 50% NaH in mineral oil. The resulting solution was heated to 60° C. for one hour. The dark red solution was cooled to 30° C. and 2.5 ml of benzyl bromide was added and stirred overnight under nitrogen. Methanol was added slowly until bubbling ceased, and the reaction mixture was then poured into 400 ml of water. The product was extracted with ether, dried over MgSO4, then concentrated and purified by column chromatography over silica gel. Elution of the material with 2% ethyl acetate/methylene chloride gave a white solid, which was recrystallized from methylene chloride/ether/petroleum ether to give 2.2 g (39% of theory) of 6,11-dihydro-11-benzyl-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazapin-5-one, m.p. 168°-170° C.

reactant | 6,11-dihydro-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazepin-5-one | 4.0 g | CN1C(C2=C(NC3=C1C=CC=C3)N=CC=C2)=O | C13H11N3O
reactant | DMF | 100 ml | CN(C)C=O | C3H7NO
reactant | NaH | 1.2 g | [H-].[Na+]
reactant | benzyl bromide | 2.5 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | Methanol | CO | CH4O
product | 6,11-dihydro-11-benzyl-6-methyl-5H-pyrido[2,3-b][1,5]benzodiazapin-5-one | 2.2 g, 39% | C(C1=CC=CC=C1)N1C2=C(C(N(C3=C1C=CC=C3)C)=O)C=CC=N2 | C20H17N3O
